US04481360
N-(β-phenylethyl)-4-amino-piperidine
Following the procedure of Lobbezoo, J. Med. Chem. 24:777 (1981). N-(β-phenylethyl)-4-piperidinone (15.0 g, 74.0 mmol) dissolved in 200 ml of methanol containing 1 ml of a 4% thiophene in methanol solution is treated with benzyl amine (10.0 g, 93.0 mmol) and 2 g of 10% palladium-on-carbon in a Parr flask and hydrogenated for 18 hours (initial pressure, 26.5 psi, final pressure 22.0 psi). The catalyst is filtered and replaced with 2.0 g of fresh 10% palladium-on-carbon. The catalyst is filtered and replaced again with 4.8 g of fresh 10% palladium-on-carbon. The hydrogenation is followed over 3 days, at which point, hydrogen uptake ceases (initial pressure, 35 psi, final pressure, 29 psi). The catalyst is filtered through Celite and is washed with methanol. GLC analysis (2 ft SE-30, 100 C, 1 minute, programmed 20 C/minute rise to 250 C) indicated that 7% unreacted benzyl amine remained). This material nevertheless was used for subsequent experiments.

reactant | N-(β-phenylethyl)-4-piperidinone | 74.0 mmol, 15.0 g | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
reactant | benzyl amine | 93.0 mmol, 10.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 200 ml | CO | CH4O
solvent | thiophene | S1C=CC=C1 | C4H4S
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
product | N-(β-phenylethyl)-4-amino-piperidine | C1(=CC=CC=C1)CCN1CCC(CC1)N | C13H20N2
